### PR TITLE
Wrap types (if needed) before comparing or asserting.

### PR DESCRIPTION
**Pull request by DikieDick**
The goal of this PR is to add an utility function (called 'correct_type_by_wrapping') that fixes some issues regarding the types of (namely) boolean statements when comparing or asserting. 

Example:
```coq
Either (x = y) or (x != y).
```
Would not work before as the `x != y` term has type `bool` and needed to be wrapped in `is_true`.

This also causes problems when comparing the type of the statement `x != y` as done in `Since`, since the type of `x != y` is not 'Type', 'Set' or 'Prop'.

I have created the utility function `correct_type_by_wrapping` that 
1. Adds the 'is_true' wrapping to booleans.
2. Leaves 'Prop', 'Type' and 'Set' unchanged.
3. Throws an error if a statement with type other than 'bool', 'Prop', 'Type' or 'Set' is encountered.

Where necessary this function has been added to the tactics in the library.

### Changes:
- Added [`theories/Util/TypeCorrector.v`](theories/Util/TypeCorrector.v)
- Added [`tests/util/TypeCorrector.v`](tests/util/TypeCorrector.v)
- Added calls to `correct_type_by_wrapping` from `TypeConstructor` to Waterproof tactics where needed.

### CODE REVIEW

File: theories/Util/TypeCorrector.v [hunk 1]
```diff
@@ -0,0 +1,39 @@
...
+(** Ensures that the type of [t] can be used in type matching or asserting. *)
+Ltac2 correct_type_by_wrapping (t: constr): constr :=
+  let type_t := Constr.type t in
+  match! type_t with
+    | Prop => t
+    | Set => t 
+    | Type => t
+    | bool => constr:(is_true $t)
+    | _ => throw (concat_list [
+      of_string "Expected a term with type in ['Prop', 'Set', 'Type', 'bool'], but we got a term of type '";
```
Comment (jim-portegies) [inline theories/Util/TypeCorrector.v:36]:
```suggestion
      of_string "Expected a term with type in ['Prop', 'Set', 'Type', 'bool'], but got a term of type '";
```

File: theories/Util/TypeCorrector.v [hunk 2]
```diff
@@ -0,0 +1,39 @@
...
+      of_constr type_t; 
+      of_string "' instead."]); constr:(tt)
+  end.
```
Comment (jim-portegies) [inline theories/Util/TypeCorrector.v:39]: Please add a newline at the end of the file

File: tests/util/TypeCorrector.v [hunk 3]
```diff
@@ -0,0 +1,104 @@
...
+  Fail Ltac2 Eval correct_type_by_wrapping constr:(0).
+
+  (* s has type setS and this should fail *)
+  Fail Ltac2 Eval correct_type_by_wrapping constr:(s).
+
+  (* t has type typeT and this should fail *)
+  Fail Ltac2 Eval correct_type_by_wrapping constr:(t).
+Abort.
+
+End assert_tests.
```
Comment (jim-portegies) [inline tests/util/TypeCorrector.v:104]: Please add a new line to the end of the file

**Review by jim-portegies — CHANGES_REQUESTED** [review]
Thanks! Could you please add tests for the tactics you've modified, in the separate test files that are available for these tactics. E.g. for the Assume tactic, add a test to `tests/tactics/Assume.v`

Finally, could you please check locally if the compilation with this new branch has slowed down. I compiled twice and once was very slow, the second time was much faster.

```coq
Goal true -> (0 = 0).
Proof.
Assume (true).
Abort.
```

File: tests/util/TypeCorrector.v (hunk 3 above)
Comment (DikieDick) [reply tests/util/TypeCorrector.v]: Fixed in 6349b70c6cb4081f9aa7c60e0f5af88dcb3fc136

File: theories/Util/TypeCorrector.v (hunk 2 above)
Comment (DikieDick) [reply theories/Util/TypeCorrector.v]: Fixed in https://github.com/impermeable/coq-waterproof/pull/60/commits/6349b70c6cb4081f9aa7c60e0f5af88dcb3fc136

**Comment by DikieDick** [comment]
> Finally, could you please check locally if the compilation with this new branch has slowed down. I compiled twice and once was very slow, the second time was much faster.

I have not noticed any slowdowns in my development. Running `hyperfine` to test on 10 compilation runs (`dune clean; dune build`) gave the following:
| Branch | Mean [s] | Min [s] | Max [s] | Relative |
|:---|---:|---:|---:|---:|
| `main` | 38.648 ± 1.035 | 37.676 | 41.229 | 1.01 ± 0.03 |
| `TypeCorrector` | 38.347 ± 0.599 | 37.398 | 39.339 | 1.00 |

File: tests/tactics/ItSuffices.v [hunk 4]
```diff
@@ -113,3 +113,20 @@ Proof.
   pose g.
   Since (A -> B) it suffices to show that A.
 Abort.
+
+Parameter b : bool.
+(* Test 11: "It suffices" works with a boolean statement *)
+Goal B.
```
Comment (jim-portegies) [inline tests/tactics/ItSuffices.v:119]:
```suggestion
Goal ((is_true b) -> B) -> B.
```

File: tests/tactics/ItSuffices.v [hunk 5]
```diff
@@ -113,3 +113,20 @@ Proof.
...
+Proof.
+  assert (is_true b -> B).
+  admit.
```
Comment (jim-portegies) [inline tests/tactics/ItSuffices.v:122]:
```suggestion
  intro H.
```
(I prefer to have no 'admits' in the test code).

File: tests/tactics/ItSuffices.v [hunk 6]
```diff
@@ -113,3 +113,20 @@ Proof.
...
+  Since (is_true b -> B) it suffices to show that (b).
+Abort.
+
+(* Test 12: "It suffices" works with a boolean statement *)
+Goal B.
```
Comment (jim-portegies) [inline tests/tactics/ItSuffices.v:127]:
```suggestion
Goal ((is_true b) -> B) -> B.
```

File: tests/tactics/ItSuffices.v [hunk 7]
```diff
@@ -113,3 +113,20 @@ Proof.
...
+Proof.
+  assert (is_true b -> B).
+  admit.
```
Comment (jim-portegies) [inline tests/tactics/ItSuffices.v:130]:
```suggestion
  intro H.
```

File: tests/tactics/ToShow.v [hunk 8]
```diff
@@ -56,4 +56,19 @@ Lemma two_is_two: 2 = 2.
...
+  We need to show (orb a b).
+  We need to show (if a then true else b).
+Abort.
+
+(** Fifth test: Test wrong goal with boolean statement *)
+Goal forall a b: bool, is_true (orb a b).
+Proof.
+  intros a b.
+  Fail We need to show that (andb a b).
+Abort.
```
Comment (jim-portegies) [inline tests/tactics/ToShow.v:74]:
```suggestion
Abort.

(* Test 13: "It suffices" works with boolean statement and boolean "Since"
  clause *)
Goal ((is_true b) -> B) -> B.
Proof.
  intro H.
  It holds that (true).
  Since (true) it suffices to show that (b).
Abort.
```

File: tests/tactics/Conclusion.v [hunk 9]
```diff
@@ -283,3 +283,11 @@ Proof.
...
     We conclude that (& F(k+1) = F(k) = F(0))%nat.
 Qed.
+
+(** * Test 9
+  Test whether the conclude tactic can handle boolean statements 
+*)
+Goal (is_true true).
+Proof.
+  We conclude that (true).
+Qed.
```
Comment (jim-portegies) [inline tests/tactics/Conclusion.v:293]:
```suggestion
Qed.

(** * Test 10
  Test whether the conclude tactic can handle a boolean statement
  with boolean since-clause.
*)
Goal (is_true true).
Proof.
It holds that (true).
Since (true) we conclude that (true).
Qed.
```

**Review by jim-portegies — CHANGES_REQUESTED** [review]
Thanks a lot for the new tests and the experiments on timing!

A few suggestions, mostly for extra tests. Please see if you agree.

File: tests/tactics/Conclusion.v (hunk 9 above)
Comment (DikieDick) [reply tests/tactics/Conclusion.v:293]: I have updated the indentation within the proof.

File: tests/tactics/ToShow.v (hunk 8 above)
Comment (DikieDick) [reply tests/tactics/ToShow.v:74]: Shouldn't this test be in [tests/tactics/ItSuffices.v](https://github.com/impermeable/coq-waterproof/pull/60/files/6349b70c6cb4081f9aa7c60e0f5af88dcb3fc136..53ebd63676b16a91cd02c40d7885fa49d279090a#diff-1decd7f86695d790236cfebead876a4fac168e01b886a136384a1e7d2fc896b4)?

Comment (jim-portegies) [reply tests/tactics/ToShow.v:74]: Yes I'm sorry!

**Review by jim-portegies — APPROVED** [review]
